US06881733B1
4-bromo-5-fluorobenzofuran
Beginning with 3 gm (13 mMol) 2-allyl-3-bromo-4-fluorophenol, the title compound was prepared in 98% yield essentially by the procedure described in Preparation XXVII with the exception that the cyclization/dehydration step was performed using sulfuric acid in toluene.

reactant | 2-allyl-3-bromo-4-fluorophenol | 13 mMol, 3 gm | C(C=C)C1=C(C=CC(=C1Br)F)O | C9H8BrFO
reactant | sulfuric acid | S(O)(O)(=O)=O | H2O4S
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | 4-bromo-5-fluorobenzofuran | 98% yield | BrC1=C(C=CC2=C1C=CO2)F | C8H4BrFO
